US05134147
2-Iodomethyl-7-methoxy-2,3-dihydrobenzofuran
This compound was obtained according to the process described in Example 4, stage C, from 7-methoxy-2,3-dihydro-2-benzofuranylmethyl tosylate and sodium iodide.

reactant | 7-methoxy-2,3-dihydro-2-benzofuranylmethyl tosylate | S(=O)(=O)(OCC1OC2=C(C1)C=CC=C2OC)C2=CC=C(C)C=C2 | C17H18O5S
reactant | sodium iodide | [I-].[Na+]
product | 2-Iodomethyl-7-methoxy-2,3-dihydrobenzofuran | ICC1OC2=C(C1)C=CC=C2OC | C10H11IO2
